US07291635B2
A mixture of the title G compound, 3-(3-benzyloxy-4-nitro-phenyl)-2-amino-propionic acid methyl ester (597 mg, 1.7 mmol), isatoic anhydride (278 mg, 1.7 mmol) and pyridine (5 mL) is heated with stirring at 80° C. for 7 h and allowed to cool to RT overnight. The mixture is evaporated to dryness, the residue is dissolved in EtOAc and the solution is washed with water and brine, dried over anhydrous MgSO4, filtered and evaporated. The residue is purified by chromatography (silica gel column, 3×20 cm, on EtOAc-hexane-methanol, 8:12:2) to give 2-(2-amino-benzoylamino)-3-(3-benzyloxy-4-nitro-phenyl)-propionic acid methyl ester: 1H-NMR δ 7.815 (d, 1H), 6.294 (s, 1H), 6.825 (d, 1H), 7.384-7.206 (m, 7H), 6.699-6.577 (m, 3H), 5.532 (br s, 2H), 5.093-5.039 (m, 3H), 3.749 s, 3H), 3.403-3.175 (m, 2H).

reactant | 3-(3-benzyloxy-4-nitro-phenyl)-2-amino-propionic acid methyl ester | 1.7 mmol, 597 mg | COC(C(CC1=CC(=C(C=C1)[N+](=O)[O-])OCC1=CC=CC=C1)N)=O | C17H18N2O5
reactant | isatoic anhydride | 1.7 mmol, 278 mg | C1=2C(=O)OC(NC1=CC=CC2)=O | C8H5NO3
solvent | pyridine | 5 mL | N1=CC=CC=C1 | C5H5N
product | 2-(2-amino-benzoylamino)-3-(3-benzyloxy-4-nitro-phenyl)-propionic acid methyl ester | COC(C(CC1=CC(=C(C=C1)[N+](=O)[O-])OCC1=CC=CC=C1)NC(C1=C(C=CC=C1)N)=O)=O | C24H23N3O6
